US06355653B1
To a solution of 96 mg (0.51 mmol) 4-bromo-pyridine-2,6-diamine in 2.4 ml MeOH was added 121 mg (0.56 mmol) O-mesitylenesulfonylhydroxylamine (prepared from ethyl o-mesitylene-sulfonylacetohydroxamate and HClO4 (70%)) in 0.6 ml MeOH at −5° C. and after 15min 71 mg (0.56 mmol) benzaldehyde and stirred for 30 min. The addition of 4.8 ml 1N KOH was followed by extraction with ethylacetate, drying of the organic layer with Na2SO4, and removal of the volatile components. The residue was purified by column chromatography on silica eluting with ethylacetate and hexane (2:3). 58 mg(39%) of 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine were isolated, MS m/e (%): 290 (M++2, 44).

reactant | 4-bromo-pyridine-2,6-diamine | 0.51 mmol, 96 mg | BrC1=CC(=NC(=C1)N)N | C5H6BrN3
reactant | O-mesitylenesulfonylhydroxylamine | 0.56 mmol, 121 mg | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)ON)C | C9H13NO3S
reactant | benzaldehyde | 0.56 mmol, 71 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | KOH | 1N, 4.8 ml | [OH-].[K+]
solvent | MeOH | 2.4 ml | CO | CH4O
solvent | MeOH | 0.6 ml | CO | CH4O
product | 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 58 mg, 39% | BrC1=CC=2N(C(=C1)N)N=C(N2)C2=CC=CC=C2 | C12H9BrN4
